US04935431
6-Butyryl-7-(4-hydroxy-2-methylphenylamino)-3-methoxythieno[3,2-b]pyridine
6-Butyryl-7-chloro-3-methoxythieno[3,2-b]pyridine (1.5 g, 0.0056 mol) and 4-hydroxy-2-methylaniline (1.37 g, 0.011 mol) in anisole (30 ml) were heated under reflux in a nitrogen atmosphere for 36 hours. The solvent was evaporated under reduced pressure and the residue was partitioned between chloroform and sodium bicarbonate solution. The insoluble material was filtered off. The chloroform layer was washed with sodium bicarbonate solution (2×100 ml), dried over magnesium sulphate, filtered and evaporated to give a brown solid. The product was purified by flash chromatography using chloroform as eluant. The solid obtained was recrystallised from ethanol to give the title compound, 0.81 g, m.p. 255°-257°.

reactant | 6-Butyryl-7-chloro-3-methoxythieno[3,2-b]pyridine | 0.0056 mol, 1.5 g | C(CCC)(=O)C=1C(=C2C(=NC1)C(=CS2)OC)Cl | C12H12ClNO2S
reactant | 4-hydroxy-2-methylaniline | 0.011 mol, 1.37 g | OC1=CC(=C(N)C=C1)C | C7H9NO
solvent | anisole | 30 ml | C1(=CC=CC=C1)OC | C7H8O
product | 6-Butyryl-7-(4-hydroxy-2-methylphenylamino)-3-methoxythieno[3,2-b]pyridine | C(CCC)(=O)C=1C(=C2C(=NC1)C(=CS2)OC)NC2=C(C=C(C=C2)O)C | C19H20N2O3S
